US04207320
A stirred mixture of 200 ml. of water, 269 g. of concentrated sulfuric acid and 136 g. of sodium 3-nitrobenzenesulfonate at 75° C. is treated dropwise with 149 g. of 4-butylaniline. The mixture is heated to 105° C. and 117 g. of crotonaldehyde is added dropwise, with stirring, at such a rate that the temperature is maintained at 105° C. The mixture is then heated at 114° C. for 30 minutes, cooled to 80° C. and poured onto chipped ice. The mixture is basified with 50% aqueous sodium hydroxide and steam distilled. The distillate is extracted with dichloromethane. The extract is evaporated at reduced pressure leaving a residue of crude 6-butylquinaldine which is distilled at reduced pressure; b.p. 104°-106° C./0.5 mm. This product is further purified by dissolving it in 600 ml. of ether and treating the solution with 23 ml. of acetic anhydride. After standing for 20 minutes, the solution is extracted with 500 ml. of 10% hydrochloric acid. The acid extract is basified with 50% aqueous sodium hydroxide and extracted with ether. The ether extract is washed with water, dried and evaporated to give a residue of purified 6-butylquinaldine.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | 4-butylaniline | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 6-butylquinaldine | C(CCC)C=1C=C2C=CC(=NC2=CC1)C | C14H17N
